US04824843
3-Nitrobenzoic acid, hydrazide, 24.5 g, (Chemical Abstracts, Vol. 102, 148507r (1983)) and 1,1,1-triethoxyethane are refluxed overnight. The mixture is cooled, filtered, and washed with hexane to give 21.9 g of 2-methyl-5-(3-nitrophenyl)-1,3,4-oxadiazole after recrystallization from 2-propanol; mp 154°-156° C.

reactant | 3-Nitrobenzoic acid, hydrazide | [N+](=O)([O-])C=1C=C(C(=O)NN)C=CC1 | C7H7N3O3
reactant | 1,1,1-triethoxyethane | C(C)OC(C)(OCC)OCC | C8H18O3
product | 2-methyl-5-(3-nitrophenyl)-1,3,4-oxadiazole | 21.9 g | CC=1OC(=NN1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H7N3O3
